US05691323
A mixture of 1.5 g of 1,3-dihydro-1-(4-oxocyclohexyl)-2H-benzimidazol-2-one, 1.21 g of tert-butyl-1-piperazinecarboxylate, 20 mL of 1,2-dichloroethane, 0.4 mL of acetic acid and 1.8 g of sodium triacetoxyborohydride was stirred at room temperature for 48 h. The reaction mixture was poured into 500 mL chloroform and 500 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 2×250 mL of chloroform and the combined organic layers dried over MgSO4 and concentrated under reduced pressure. Chromatography of the crude product on silica gel, eluting with 90:10 CHCl3 : MeOH gave 0.631 g of cis-1,3-dihydro-1-{4-[4-(tert-butyloxycarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one as white solid: mp=228°-30° C.; 1H NMR (400 MHz, CDCl3) 7.45 (m, 1H), 7.14 (m, 1H), 7.05 (m, 2H), 3.55 (br s, 4H), 2.49 (br s, 6H), 2.27 (s, 1H), 2.15 (br d, J=15.1, 2H), 1.58 (br d, J=10.6, 4H), 1.49 (s, 9H); followed by 0.52 g of trans-1,3-dihydro-1-{4-[4-(tert-butyloxycarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one as white solid: mp=195°-6° C.; 1H NMR (400 MHz, CDCl3) 7.14 (m, 2H), 7.12-7.04 (m, 2H), 4.28 (m, 1H), 3.46 (br s, 4H), 2.56 (br s, 5H), 2.49 (m, 1H), 2.29 (q, 2H), 2.06 (d, J=6.4, 2H), 2.0 (d, J=9, 2H), 1.52 (m, 1H), 1.47 (s, 9H).

reactant | 1,3-dihydro-1-(4-oxocyclohexyl)-2H-benzimidazol-2-one | 1.5 g | O=C1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C13H14N2O2
reactant | tert-butyl-1-piperazinecarboxylate | 1.21 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium triacetoxyborohydride | 1.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 500 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | cis-1,3-dihydro-1-{4-[4-(tert-butyloxycarbonyl)piperazin-1-yl]-1-cyclohexyl}-2H-benzimidazol-2-one | 0.631 g | C(C)(C)(C)OC(=O)N1CCN(CC1)[C@H]1CC[C@H](CC1)N1C(NC2=C1C=CC=C2)=O | C22H32N4O3
